US05532240
The reaction and procedure were conducted in a similar manner as in Example 24 using 1.4 g of 6-acetyl-3-(4-chlorobutyryl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine and 1.3 g of 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine hydrochloride to give 1.4 g of 6-acetyl-3-(4-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)butyryl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine as an oil.

reactant | 6-acetyl-3-(4-chlorobutyryl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine | 1.4 g | C(C)(=O)N1CC2=C(CC1)C(=C(S2)C)C(CCCCl)=O | C14H18ClNO2S
reactant | 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine hydrochloride | 1.3 g | Cl.FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1
product | 6-acetyl-3-(4-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)butyryl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine | 1.4 g | C(C)(=O)N1CC2=C(CC1)C(=C(S2)C)C(CCCN2CCC(CC2)C2=NOC1=C2C=CC(=C1)F)=O | C26H30FN3O3S
